US07465731B2
A solution of ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride (560 mg), p-toluenesulfonyl chloride (318 mg) and Et3N (0.7 ml) in DMF (15 ml) was stirred at ambient temperature for 10 hours. The reaction mixture was poured into a mixture of AcOEt and H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was crystallized from AcOEt-n-hexane to give ethyl (2E)-3-[5-chloro-6-({(3R)-1-[(4-methylphenyl)sulfonyl]-3-pyrrolidinyl}amino)-3-pyridinyl]acrylate (490 mg).

reactant | ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride | 560 mg | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCC1)/C=C/C(=O)OCC
reactant | p-toluenesulfonyl chloride | 318 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Et3N | 0.7 ml | CCN(CC)CC | C6H15N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | ethyl (2E)-3-[5-chloro-6-({(3R)-1-[(4-methylphenyl)sulfonyl]-3-pyrrolidinyl}amino)-3-pyridinyl]acrylate | 490 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)/C=C/C(=O)OCC | C21H24ClN3O4S
